US08471005B2
N-tert-Butyl-3-{2-[4-(1,4-dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide was prepared from N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide and 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1052a. Product isolated as an orange foam (90 mg, 56%). LCMS (m/e) 548 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.97 (s, 1H), 8.74 (s, 1H), 8.21 (d, 1H, J=7.9 Hz), 7.89 (d, 1H, J=7.8 Hz), 7.64-7.54 (m, 3H), 7.42 (d, 2H, J=8.3 Hz), 7.10 (d, 1H, J=4.8 Hz), 6.91-6.83 (m, 2H), 4.86 (s, 1H), 3.83-3.70 (m, 2H), 3.27-3.17 (m, 1H), 3.04 (s, 3H), 3.06-2.98 (m, 1H), 2.75-2.65 (m, 1H), 2.21 (s, 3H), 1.14 (s, 9H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC1=CC=C(C=C1)C1C(N(CCN1C)C)=O | C12H17N3O
product | N-tert-Butyl-3-{2-[4-(1,4-dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2N(CCN(C2=O)C)C | C28H33N7O3S
